US08802064B2
7-Bromo-1-hydroxyisoquinoline (300 mg, 1.34 mmol, 1.0 equiv), tetrabutylammonium bromide (50 mg, 0.13 mmol, 0.10 equiv), and phenethyl bromide (220 uL, 1.6 mmol, 1.2 equiv) were combined in toluene (14 mL) and treated with 50% aq. NaOH (3 mL), and the resulting mixture stirred rapidly while heating to 80° C. After 1.5 hours, the mixture was diluted with MTBE and washed with water, saturated NaHCO3, and brine. The organic phase was dried over Na2SO4. Addition of silica gel, concentration, and purification of the crude residue using flash silica gel chromatography (gradient of 2-30% ethyl acetates/hexanes) provided 7-bromo-2-phenethyl-isoquinolin-1-one (340 mg, 1.04 mmol, 77%) as a white solid. This isoquinolinone (340 mg, 1.04 mmol) was converted, via Methods 1 and 2, to compound 11 (141 mg, 46%) which was isolated as a white solid. Activity: B

reactant | 7-Bromo-1-hydroxyisoquinoline | 1.34 mmol, 300 mg, 1.0 equiv | BrC1=CC=C2C=CN=C(C2=C1)O | C9H6BrNO
reactant | phenethyl bromide | 1.6 mmol, 220 uL, 1.2 equiv | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | NaOH | 3 mL | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 0.13 mmol, 50 mg, 0.10 equiv | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 14 mL | C1(=CC=CC=C1)C | C7H8
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 7-bromo-2-phenethyl-isoquinolin-1-one | 1.04 mmol, 340 mg, 77% | BrC1=CC=C2C=CN(C(C2=C1)=O)CCC1=CC=CC=C1 | C17H14BrNO
